US07582633B2
Step 2: 3-(2-Bromo-5-fluorophenoxy)azetidine hydrochloride salt
To tert-butyl 3-(2-bromo-5-fluorophenoxy)azetidine-1-carboxylate (2.28 g, 6.59 mmol) in dioxane (40 mL) was added 4 M HCl in dioxane (4.49 mL, 19.8 mmol). After a period of 18 h, the white solid was filtered and washed with cold dioxane to give the title compound.

reactant | tert-butyl 3-(2-bromo-5-fluorophenoxy)azetidine-1-carboxylate | 6.59 mmol, 2.28 g | BrC1=C(OC2CN(C2)C(=O)OC(C)(C)C)C=C(C=C1)F | C14H17BrFNO3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 19.8 mmol, 4.49 mL | O1CCOCC1 | C4H8O2
product | 3-(2-Bromo-5-fluorophenoxy)azetidine hydrochloride salt | Cl.BrC1=C(OC2CNC2)C=C(C=C1)F | InChI=1S/C9H9BrFNO.ClH/c10-8-2-1-6(11)3-9(8)13-7-4-12-5-7;/h1-3,7,12H,4-5H2;1H
